US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(1-naphthyl)-10b-methyl-3,4,4a, 5,6,10b-hexahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-8-(1-naphthyl)-10b-methyl-3,4,4a,5,6,10b-hexahydrobenzo[f]quinolin-3-one (22 mg, 0.065 mmol), 0.20 mL of t-butanol, and potassium t-butoxide (22 mg, 0.19 mmol). Methyl iodide (0.012 mL, 0.19 mmol) was added and the mixture was stirred at room temperature for 4 h. The mixture was diluted with ethyl acetate, and purified by silica gel chromatography (ethyl acetate eluent) to give 16 mg (70%) of the title compound as a yellow solid, upon trituration from diethyl ether/hexanes. mp 172°-173°. FDMS: m/e=353.

reactant | (+)-(4aR)-(10bR)-8-(1-naphthyl)-10b-methyl-3,4,4a,5,6,10b-hexahydrobenzo[f]quinolin-3-one | 0.065 mmol, 22 mg | C1(=CC=CC2=CC=CC=C12)C1=CC2=C([C@]3(C=CC(N[C@@H]3CC2)=O)C)C=C1 | C24H21NO
reactant | t-butanol | 0.20 mL | C(C)(C)(C)O | C4H10O
reactant | potassium t-butoxide | 0.19 mmol, 22 mg | CC(C)([O-])C.[K+]
reactant | Methyl iodide | 0.19 mmol, 0.012 mL | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+)-(4aR)-(10bR)-4-methyl-8-(1-naphthyl)-10b-methyl-3,4,4a, 5,6,10b-hexahydrobenzo[f]quinolin-3-one | 16 mg, 70% | CN1C(C=C[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC=CC1=CC=CC=C31)C)=O | C25H23NO
